US08633298B2
Similar to comparative example 4, CTC-Phe-H was synthesized by the solid phase reaction method using CTC as a solid phase carrier. Then, to dichloromethane (2 ml) were added CTC-Phe-H (110 mg (0.145 mmol)), Fmoc-Gly-OH (120 mg (0.4 mmol)), HBTU (165 mg (0.4 mmol)), HOBt (60 mg (0.4 mmol)), dimethylformamide (1 ml) and diisopropylethylamine (75 μl (0.4 mmol)), respectively, and the mixture was stirred to react at room temperature for 2 hours. After the reaction, the solid phase was washed with dimethylformamide (3×2 ml), methanol (3×2 ml) and dichloromethane (3×2 ml), respectively. Subsequently, to the solid phase was added the previously prepared Fmoc deprotection solution (dimethylformamide:piperidine:DBU=96:2:2) (2 ml), and the mixture was stirred to react at room temperature for 1 hour to obtain CTC-Phe-Gly-H. This CTC-Phe-Gly-H was dissolved in dichloromethane (2 ml), and Fmoc-Ala-OH.H2O (130 mg (0.4 mmol)), HBTU (165 mg (0.4 mmol)), HOBt (60 mg (0.4 mmol)), dimethylformamide (1 ml) and diisopropylethylamine (75 μl (0.4 mmol)) were added, respectively, and the mixture was stirred to react at room temperature for 2 hours. After the reaction, the solid phase was washed with dimethylformamide (3×2 ml), methanol (3×2 ml), and dichloromethane (3×2 ml), respectively. Subsequently, to the solid phase was added the previously prepared Fmoc deprotection solution (dimethylformamide:piperidine:DBU=96:2:2) (2 ml), and the mixture was stirred to react at room temperature for 1 hour to obtain CTC-Phe-Gly-Ala-H.

reactant | Phe-H | N[C@@H](CC1=CC=CC=C1)C=O | C9H11NO
reactant | Phe-H | 0.145 mmol, 110 mg | N[C@@H](CC1=CC=CC=C1)C=O | C9H11NO
reactant | Fmoc-Gly-OH | 0.4 mmol, 120 mg | N(CC(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C17H15NO4
reactant | HBTU | 0.4 mmol, 165 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt | 0.4 mmol, 60 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethylamine | 0.4 mmol, 75 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | Phe-Gly-H | N[C@@H](CC1=CC=CC=C1)C(=O)NCC=O | C11H14N2O2
